### PR TITLE
feat: the Dialectica category is monoidal closed

### PR DESCRIPTION
**Pull request by digama0**
- [x] depends on: #14274

The monoidal closed structure of the Dialectica category.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Dialectica/Closed.lean [hunk 1]
```diff
@@ -0,0 +1,251 @@
...
+  le_himp_iff _ _ _ := Subobject.HasHImp.le_himp_iff
+
+theorem himp_pullback {X Y : C} (g : X ⟶ Y) (f₁ f₂) :
+    (pullback g).obj (f₁ ⇨ f₂) = (pullback g).obj f₁ ⇨ (pullback g).obj f₂ := by
+  apply le_antisymm
+  · rw [le_himp_iff, ← inf_pullback]
+    exact (pullback g).monotone himp_inf_le
+  · exact HasHImp.himp_pullback_le _
+
+end Subobject
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Dialectica/Closed.lean:57]: It seems everything up to this point should be in earlier files.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
